### PR TITLE
[Merged by Bors] - feat(Data/Fin/Tuple/Embedding): create embeddings of Fin Nat to types

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Define
* `Fin.Embedding.cons`, `Fin.Embedding.tail`
* `Fin.Embedding.snoc`, `Fin.Embedding.init`
* `Fin.Embedding.append`

analogously to `Fin.cons`, `Fin.snoc`, `Fin.append`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+  ⟨Fin.tail x, fun i j h ↦ by rw [← succ_inj, x.inj' h]⟩
+
+theorem coe_tail {n : ℕ} (x : Fin (n + 1) ↪ α) : ↑(tail x) = Fin.tail x := rfl
+
+/-- Adding a new element at the beginning of an injective n-tuple, to get an injective n+1-tuple. -/
+def cons {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) : Fin (n + 1) ↪ α :=
+  ⟨Fin.cons a x, cons_injective_iff.mpr ⟨ha, x.inj'⟩⟩
+
+theorem coe_cons {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) :
+    ↑(cons x ha) = Fin.cons a x := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:44]: I think this and all the similar lemmas should be `@[simp, norm_cast]`

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+/-! # Constructions of embeddings of `Fin n` into a type
+
+* `Fin.Embedding.cons` : from an embedding `x : Fin n ↪ α` and `a : α` such that
+`a ∉ x.range`, construct an embedding `Fin (n + 1) ↪ α` by putting `a` at `0`
+
+* `Fin.Embedding.tail`: the tail of an embedding `x : Fin (n + 1) ↪ α`
+
+* `Fin.Embedding.snoc` : from an embedding `x : Fin n ↪ α` and `a : α`
+such that `a ∉ x.range`, construct an embedding `Fin (n + 1) ↪ α`
+by putting `a` at the end.
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:18]:
```suggestion
* `Fin.Embedding.snoc` : from an embedding `x : Fin n ↪ α` and `a : α`
  such that `a ∉ x.range`, construct an embedding `Fin (n + 1) ↪ α`
  by putting `a` at the end.
```
etc

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+
+open Function.Embedding Fin Set Nat
+
+namespace Fin.Embedding
+
+variable {α : Type*}
+
+/-- Remove the first element from an injective (n + 1)-tuple -/
+def tail {n : ℕ} (x : Fin (n + 1) ↪ α) : Fin n ↪ α :=
+  ⟨Fin.tail x, fun i j h ↦ by rw [← succ_inj, x.inj' h]⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:35]:
```suggestion
  ⟨Fin.tail x, x.injective.comp <| Fin.succ_injective _⟩
```

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 4]
```diff
@@ -0,0 +1,135 @@
...
+
+theorem coe_cons {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) :
+    ↑(cons x ha) = Fin.cons a x := rfl
+
+theorem tail_cons {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) :
+    tail (cons x ha) = x := rfl
+
+/-- Remove the last element from an injective (n + 1)-tuple -/
+def init {n : ℕ} (x : Fin (n + 1) ↪ α) : Fin n ↪ α :=
+  ⟨Fin.init x, fun i j h ↦ by rw [← castSucc_inj, x.inj' h]⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:51]:
```suggestion
  ⟨Fin.init x, x.injective.comp <| castSucc_injective _⟩
```

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 5]
```diff
@@ -0,0 +1,135 @@
...
+theorem coe_snoc {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) :
+    ↑(snoc x ha) = Fin.snoc x a := rfl
+
+theorem init_snoc {n : ℕ} (x : Fin n ↪ α) {a : α} (ha : a ∉ range x) :
+    init (snoc x ha) = x := by
+  apply coe_injective
+  simp [snoc, init, init_snoc]
+
+theorem snoc_castSucc {n : ℕ} {x : Fin n ↪ α}
+    {a : α} {ha : a ∉ range ⇑x} {i : Fin n} :
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:66]: nit:
```suggestion
theorem snoc_castSucc {n : ℕ} {x : Fin n ↪ α} {a : α} {ha : a ∉ range ⇑x} {i : Fin n} :
```
to match the lemmas above

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 6]
```diff
@@ -0,0 +1,135 @@
...
+      rwa [← Fin.natAdd_inj, ← H.eq_iff, Fin.append_right, Fin.append_right]
+    · rw [Set.disjoint_iff_forall_ne]
+      rintro _ ⟨i, rfl⟩ _ ⟨j, rfl⟩
+      rw [← Fin.append_left x y i, ← Fin.append_right x y j, H.ne_iff]
+      apply Fin.ne_of_lt
+      simp only [lt_iff_val_lt_val, coe_castAdd, coe_natAdd]
+      exact lt_of_lt_of_le i.prop (le_add_right m ↑j)
+  · rintro ⟨Hx, Hy, H⟩
+    intro i j h
+    rcases Fin.exists_eq_castAdd_or_exists_eq_natAdd i with ⟨i, rfl⟩ | ⟨i, rfl⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:103]:
```suggestion
    induction i using Fin.addCases with
```
probably with some tweaks below

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 7]
```diff
@@ -0,0 +1,135 @@
...
+
+theorem append_left {m n : ℕ} {x : Fin m ↪ α} {y : Fin n ↪ α}
+    (h : Disjoint (range ⇑x) (range ⇑y)) (i : Fin m) :
+    append h (castAdd n i) = x i := by
+  simp [coe_append, Fin.append_left]
+
+theorem append_right {m n : ℕ} {x : Fin m ↪ α} {y : Fin n ↪ α}
+    (h : Disjoint (range ⇑x) (range ⇑y)) (i : Fin n) :
+    append h (natAdd m i) = y i := by
+  simp [coe_append, Fin.append_right]
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:132]: With the `coe` lemma above, I don't think you need these lemmas.

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 8]
```diff
@@ -0,0 +1,135 @@
...
+    (∃ i' : Fin m, i = castAdd n i') ∨ ∃ i', i = natAdd m i' := by
+  rcases Nat.lt_or_ge i.val m with hi | hi
+  · exact Or.inl ⟨⟨i.val, hi⟩, by rw [castAdd_mk]⟩
+  · exact Or.inr
+      ⟨⟨i.val - m, by simp [Nat.sub_lt_iff_lt_add' hi, i.prop]⟩,
+        by simp only [natAdd_mk, ← Fin.val_inj, Nat.add_sub_of_le hi]⟩
+
+theorem _root_.Fin.append_injective_iff {m n : ℕ} {x : Fin m → α} {y : Fin n → α} :
+  Function.Injective (Fin.append x y) ↔
+    Function.Injective x ∧ Function.Injective y ∧ Disjoint (range x) (range y) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:86]: Thanks for writing this one! Can you move it into the `Basic` file?

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Fin/Tuple/Embedding.lean]: I did, but that required to add two `import`.

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 9]
```diff
@@ -0,0 +1,96 @@
...
+theorem snoc_castSucc {n : ℕ} {x : Fin n ↪ α} {a : α} {ha : a ∉ range ⇑x} {i : Fin n} :
+    snoc x ha i.castSucc  = x i := by
+  rw [coe_snoc, Fin.snoc_castSucc]
+
+theorem snoc_last {n : ℕ} {x : Fin n ↪ α} {a : α} {ha : a ∉ range ⇑x} :
+    snoc x ha (last n) = a := by
+  rw [coe_snoc, Fin.snoc_last]
+
+-- Mathlib.Data.Fin.Basic
+theorem _root_.Fin.exists_eq_castAdd_or_exists_eq_natAdd {m n : ℕ} (i : Fin (m + n)) :
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:77]: I think this can be deleted now, it's arguably just a worse version of `addCases`

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 10]
```diff
@@ -0,0 +1,96 @@
...
+
+-/
+
+open Function.Embedding Fin Set Nat
+
+namespace Fin.Embedding
+
+variable {α : Type*}
+
+/-- Remove the first element from an injective (n + 1)-tuple -/
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:33]:
```suggestion
/-- Remove the first element from an injective (n + 1)-tuple. -/
```
etc

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 11]
```diff
@@ -410,6 +411,41 @@ theorem append_castAdd_natAdd {f : Fin (m + n) → α} :
   unfold append addCases
   simp
 
+theorem append_injective_iff {α : Type*} {m n : ℕ} {x : Fin m → α} {y : Fin n → α} :
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:414]:
```suggestion
theorem append_injective_iff {x : Fin m → α} {y : Fin n → α} :
```
I think the variable is already there

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 12]
```diff
@@ -410,6 +411,41 @@ theorem append_castAdd_natAdd {f : Fin (m + n) → α} :
...
+  Function.Injective (Fin.append x y) ↔
+    Function.Injective x ∧ Function.Injective y ∧ Disjoint (Set.range x) (Set.range y) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:416]:
```suggestion
    Function.Injective (Fin.append x y) ↔
      Function.Injective x ∧ Function.Injective y ∧ Disjoint (Set.range x) (Set.range y) := by
```
since the statement should be indented four spaces.

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 13]
```diff
@@ -410,6 +411,41 @@ theorem append_castAdd_natAdd {f : Fin (m + n) → α} :
...
+  constructor
+  · intro H
+    constructor
+    · intro i j h
+      rwa [← Fin.castAdd_inj, ← H.eq_iff, Fin.append_left, Fin.append_left]
+    constructor
+    · intro i j h
+      rwa [← Fin.natAdd_inj, ← H.eq_iff, Fin.append_right, Fin.append_right]
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:424]:
```suggestion
    refine ⟨?_, ?_, ?_⟩
    · simpa [Function.comp_def] using H.comp (castAdd_injective _ _)
    · simpa [Function.comp_def] using H.comp (natAdd_injective _ _)
```
after proving
```lean
theorem natAdd_injective (m n : ℕ) : Function.Injective (Fin.natAdd n : Fin m → _) := sorry
```

File: Mathlib/Data/Fin/Tuple/Basic.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Fin/Tuple/Basic.lean:414]: No, its a `Sort` valued and `Set.range` doesn't want of that.

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 14]
```diff
@@ -1,11 +1,12 @@
...
 Copyright (c) 2019 Floris van Doorn. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Floris van Doorn, Yury Kudryashov, Sébastien Gouëzel, Chris Hughes
+Authors: Floris van Doorn, Yury Kudryashov, Sébastien Gouëzel, Chris Hughes, Antoine Chambert-Loir
 -/
 import Mathlib.Data.Fin.Rev
 import Mathlib.Data.Nat.Find
-
+import Mathlib.Order.Fin.Basic
+import Init.Data.Nat.Basic
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:9]: `Init` is always imported automatically.

File: Mathlib/Data/Fin/Tuple/Basic.lean (hunk 11 above)
Comment (eric-wieser) [reply Mathlib/Data/Fin/Tuple/Basic.lean:414]: Perhaps worth replacing `Disjoint (Set.range x) (Set.range y)` with `∀ i j, x i ≠ y j` then?

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 15]
```diff
@@ -410,6 +411,38 @@ theorem append_castAdd_natAdd {f : Fin (m + n) → α} :
   unfold append addCases
   simp
 
+theorem append_injective_iff {α : Type*} {m n : ℕ} {x : Fin m → α} {y : Fin n → α} :
+    Function.Injective (Fin.append x y) ↔
+      Function.Injective x ∧ Function.Injective y ∧ Disjoint (Set.range x) (Set.range y) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:416]: I think there's a shorter proof here which starts
```
theorem append_comp_finSumFinEquiv {α : Sort*} {m n : ℕ} {x : Fin m → α} {y : Fin n → α} :
    Fin.append x y ∘ finSumFinEquiv = Sum.elim x y := by
  ext (i | j) <;> simp

theorem append_injective_iff {α : Type*} {m n : ℕ} {x : Fin m → α} {y : Fin n → α} :
  Function.Injective (Fin.append x y) ↔
    Function.Injective x ∧ Function.Injective y ∧ Disjoint (Set.range x) (Set.range y) := by
  rw [← (finSumFinEquiv (m := m) (n := n)).injective_comp, append_comp_finSumFinEquiv]
```
and finishes with the lemma in #24899.

Though maybe this brings in an unwanted import for `finSumFinEquiv`

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Fin/Tuple/Basic.lean:416]: That makes an import loop!

File: Mathlib/Data/Fin/Tuple/Basic.lean (hunk 11 above)
Comment (riccardobrasca) [reply Mathlib/Data/Fin/Tuple/Basic.lean:414]: Apart from this comment LGTM. @eric-wieser is it OK fro you?

Comment (eric-wieser) [reply Mathlib/Data/Fin/Tuple/Basic.lean:414]: I'd like to see if I can make the golf in https://github.com/leanprover-community/mathlib4/pull/24167#discussion_r2088668707 work once the linked PR lands

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 16]
```diff
@@ -379,6 +380,21 @@ theorem append_castAdd_natAdd {f : Fin (m + n) → α} :
...
+  ext (i | j) <;> simp
+
+theorem append_injective_iff {xs : Fin m → α} {ys : Fin n → α} :
+    Function.Injective (Fin.append xs ys) ↔
+      Function.Injective xs ∧ Function.Injective ys ∧ ∀ i j, xs i ≠ ys j := by
+  let finSumFinEquiv : Fin m ⊕ Fin n ≃ Fin (m + n) :=
+  { toFun := Sum.elim (Fin.castAdd n) (Fin.natAdd m)
+    invFun i := @Fin.addCases m n (fun _ => Fin m ⊕ Fin n) Sum.inl Sum.inr i
+    left_inv x := by rcases x with y | y <;> dsimp <;> simp
+    right_inv x := by refine Fin.addCases (fun i => ?_) (fun i => ?_) x <;> simp }
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:394]: Inlining this felt a bit silly, but also makes the proof shorter than proving by a different route!

File: Mathlib/Data/Set/Disjoint.lean [hunk 17]
```diff
@@ -119,6 +119,10 @@ theorem _root_.HasSubset.Subset.diff_ssubset_of_nonempty (hst : s ⊆ t) (hs : s
     t \ s ⊂ t := by
   simpa [inter_eq_self_of_subset_right hst]
 
+theorem disjoint_range_iff {β γ : Type*} {x : β → α} {y : γ → α} :
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Disjoint.lean:122]:
```suggestion
theorem disjoint_range_iff {β γ : Sort*} {x : β → α} {y : γ → α} :
```

File: Mathlib/Data/Fin/Tuple/Embedding.lean [hunk 18]
```diff
@@ -0,0 +1,92 @@
...
+  rw [coe_snoc, Fin.snoc_castSucc]
+
+theorem snoc_last {n : ℕ} {x : Fin n ↪ α} {a : α} {ha : a ∉ range ⇑x} :
+    snoc x ha (last n) = a := by
+  rw [coe_snoc, Fin.snoc_last]
+
+theorem _root_.Set.disjoint_range_iff {α β γ : Type*} {x : α → γ} {y : β → γ} :
+    Disjoint (range x) (range y) ↔ ∀ i j, x i ≠ y j := by
+  simp [Set.disjoint_iff_forall_ne]
+
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Embedding.lean:79]:
```suggestion
```

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 19]
```diff
@@ -379,6 +380,21 @@ theorem append_castAdd_natAdd {f : Fin (m + n) → α} :
...
   simp
 
+theorem append_comp_sumElim {xs : Fin m → α} {ys : Fin n → α} :
+    Fin.append xs ys ∘ Sum.elim (Fin.castAdd _) (Fin.natAdd _) = Sum.elim xs ys := by
+  ext (i | j) <;> simp
+
+theorem append_injective_iff {xs : Fin m → α} {ys : Fin n → α} :
+    Function.Injective (Fin.append xs ys) ↔
+      Function.Injective xs ∧ Function.Injective ys ∧ ∀ i j, xs i ≠ ys j := by
+  let finSumFinEquiv : Fin m ⊕ Fin n ≃ Fin (m + n) :=
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Tuple/Basic.lean:390]:
```suggestion
  -- TODO: move things around so we can just import this.
  -- We inline it because it's still shorter than proving from scratch.
  let finSumFinEquiv : Fin m ⊕ Fin n ≃ Fin (m + n) :=
```

**Comment by eric-wieser** [comment]
maintainer merge

Thanks!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
